US07476666B2
Step 1: Dimethyl 4-benzyloxy-1-(3-bromopropyl)-1H-pyrazole-3,5-dicarboxylate
To a solution of dimethyl 4-benzyloxy-1H-pyrazole-3,5-dicarboxylate (200 mg, 0.689 mmol) in DMF (3 mL) under an atmosphere of nitrogen at 0° C. was added dibromopropane (211 μL, 2.067 mmol) and Cs2CO3 (269 mg, 0.827 mmol). The ice bath was removed, and the reaction was stirred at room temperature overnight. The solvent was removed in vacuo, and the resulting residue was partitioned between EtOAc and water. The aqueous layer was extracted into EtOAc once, and the combined organic extracts were washed with brine, dried over Na2SO4, and concentrated in vacuo. the residue was purified by flash column chromatography on silica gel using a 0-50% EtOAc/hexanes gradient elution. Collection and concentration of the appropriate fractions afforded the compound. 1H NMR (400 MHz, CDCl3) δ 7.47-7.44 (m, 2H), 7.40-7.34 (m, 3M), 5.13 (s, 2H), 4.71-4.67 (t, 2H), 3.96 (s, 3H), 3.87 (s, 3H), 3.39-3.36 (t, 2H), 2.45-2.38 (dt, 2H); ES MS (M+1)=412.

reactant | dimethyl 4-benzyloxy-1H-pyrazole-3,5-dicarboxylate | 0.689 mmol, 200 mg | C(C1=CC=CC=C1)OC=1C(=NNC1C(=O)OC)C(=O)OC | C14H14N2O5
reactant | dibromopropane | 2.067 mmol, 211 μL | BrC(C)(C)Br | C3H6Br2
reactant | Cs2CO3 | 0.827 mmol, 269 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | Dimethyl 4-benzyloxy-1-(3-bromopropyl)-1H-pyrazole-3,5-dicarboxylate | C(C1=CC=CC=C1)OC=1C(=NN(C1C(=O)OC)CCCBr)C(=O)OC | C17H19BrN2O5
